* JTL transport-gate polarity replay; pulse 5 from accepted Q0+10-ohm raw.
* Polarity: reverse; no amplitude scaling or waveform shaping.
.include jjmit.cir
.include JTL.cir

V_REPLAY JTL_IN 0 pwl(0p 0 200p -0 200.1p -0 200.2p -0 200.3p -0 200.4p -0 200.5p -0 200.6p -0 200.7p -0 200.8p -0 200.9p -0 201p -0 201.1p -0 201.2p -0 201.3p -0 201.4p -0 201.5p -0 201.6p -0 201.7p -0 201.8p -0 201.9p -0 202p -0 202.1p -0 202.2p -0 202.3p -0 202.4p -0 202.5p -0 202.6p -0 202.7p -0 202.8p -0 202.9p -0 203p -0 203.1p -0 203.2p -0 203.3p -0 203.4p -0 203.5p -0 203.6p -0 203.7p -0 203.8p -0 203.9p -0 204p -0 204.1p -0 204.2p -0 204.3p -0 204.4p -0 204.5p -0 204.6p -0 204.7p -0 204.8p -0 204.9p -0 205p -0 205.1p -0 205.2p -0 205.3p -0 205.4p -0 205.5p -0 205.6p -0 205.7p -0 205.8p -0 205.9p -0 206p -0 206.1p -0 206.2p -0 206.3p -0 206.4p -0 206.5p -0 206.6p -0 206.7p -0 206.8p -0 206.9p -0 207p -0 207.1p -0 207.2p -0 207.3p -0 207.4p -0 207.5p -0 207.6p -0 207.7p -0 207.8p -0 207.9p -0 208p -0 208.1p -0 208.2p -0 208.3p -0 208.4p -0 208.5p -0 208.6p -0 208.7p -0 208.8p -0 208.9p -0 209p -0 209.1p -0 209.2p -0 209.3p -0 209.4p -0 209.5p -0 209.6p -0 209.7p -0 209.8p -0 209.9p -0 210p -0 210.1p -7.088784e-08 210.2p -4.511178e-07 210.3p -1.59376e-06 210.4p -4.127958e-06 210.5p -8.747451e-06 210.6p -1.606666e-05 210.7p -2.648919e-05 210.8p -4.012249e-05 210.9p -5.67553e-05 211p -7.589777e-05 211.1p -9.680023e-05 211.2p -0.0001184716 211.3p -0.000139746 211.4p -0.0001594111 211.5p -0.0001763694 211.6p -0.0001897889 211.7p -0.0001992055 211.8p -0.0002045577 211.9p -0.0002061558 212p -0.000204603 212.1p -0.0002006909 212.2p -0.0001952929 212.3p -0.0001892718 212.4p -0.0001834126 212.5p -0.0001783822 212.6p -0.0001747152 212.7p -0.0001728189 212.8p -0.0001729925 212.9p -0.0001754529 213p -0.0001803638 213.1p -0.0001878626 213.2p -0.000198085 213.3p -0.0002111833 213.4p -0.0002273398 213.5p -0.0002467743 213.6p -0.0002697437 213.7p -0.0002965358 213.8p -0.0003274541 213.9p -0.0003627953 214p -0.0004028173 214.1p -0.0004476974 214.2p -0.0004974776 214.3p -0.0005519888 214.4p -0.0006107446 214.5p -0.0006727889 214.6p -0.0007364952 214.7p -0.0007993403 214.8p -0.0008577272 214.9p -0.0009069992 215p -0.0009418116 215.1p -0.0009569561 215.2p -0.0009485311 215.3p -0.000915105 215.4p -0.0008584059 215.5p -0.0007832152 215.6p -0.0006964723 215.7p -0.0006059077 215.8p -0.0005186541 215.9p -0.000440205 216p -0.0003739039 216.1p -0.0003208769 216.2p -0.0002803119 216.3p -0.0002499678 216.4p -0.0002267851 216.5p -0.0002074713 216.6p -0.000188972 216.7p -0.0001687839 216.8p -0.0001451102 216.9p -0.0001168904 217p -8.374931e-05 217.1p -4.598112e-05 217.2p -4.558517e-06 217.3p 3.889384e-05 217.4p 8.220736e-05 217.5p 0.0001228684 217.6p 0.0001582891 217.7p 0.0001861133 217.8p 0.0002045115 217.9p 0.0002124182 218p 0.0002096697 218.1p 0.0001970228 218.2p 0.0001760493 218.3p 0.000148931 218.4p 0.0001181905 218.5p 8.640462e-05 218.6p 5.594086e-05 218.7p 2.875093e-05 218.8p 6.238226e-06 218.9p -1.079553e-05 219p -2.213189e-05 219.1p -2.806059e-05 219.2p -2.926685e-05 219.3p -2.670054e-05 219.4p -2.144456e-05 219.5p -1.45958e-05 219.6p -7.167597e-06 219.7p -1.839137e-08 219.8p 6.192346e-06 219.9p 1.102263e-05 220p 1.424434e-05 220.1p 1.582203e-05 220.2p 1.587923e-05 220.3p 1.465744e-05 220.4p 1.247234e-05 220.5p 9.671735e-06 220.6p 6.598289e-06 220.7p 3.559548e-06 220.8p 8.06576e-07 220.9p -1.478459e-06 221p -3.186254e-06 221.1p -4.277068e-06 221.2p -4.771793e-06 221.3p -4.739216e-06 221.4p -4.281347e-06 221.5p -3.518469e-06 221.6p -2.575299e-06 221.7p -1.569289e-06 221.8p -6.016947e-07 221.9p 2.482995e-07 222p 9.26462e-07 222.1p 1.403686e-06 222.2p 1.67394e-06 222.3p 1.750571e-06 222.4p 1.661596e-06 222.5p 1.444556e-06 222.6p 1.141483e-06 222.7p 7.943798e-07 222.8p 4.415281e-07 222.9p 1.147946e-07 223p -1.620097e-07 223.1p -3.737632e-07 223.2p -5.137868e-07 223.3p -5.828997e-07 223.4p -5.879864e-07 223.5p -5.402917e-07 223.6p -4.536415e-07 223.7p -3.427606e-07 223.8p -2.218178e-07 223.9p -1.03284e-07 224p 2.853444e-09 224.1p 8.951439e-08 224.2p 1.526187e-07 224.3p 1.908984e-07 224.4p 2.054972e-07 224.5p 1.994313e-07 224.6p 1.769843e-07 224.7p 1.431002e-07 224.8p 1.028293e-07 224.9p 6.086528e-08 225p 2.119781e-08 225.1p -1.31099e-08 225.2p -4.002172e-08 225.3p -5.852074e-08 225.4p -6.851333e-08 225.5p -7.066953e-08 225.6p -6.622547e-08 225.7p -5.677188e-08 225.8p -4.405005e-08 225.9p -2.977152e-08 226p -1.547329e-08 226.1p -2.414588e-09 226.2p 8.483163e-09 226.3p 1.665582e-08 226.4p 2.188109e-08 226.5p 2.423589e-08 226.6p 2.403522e-08 226.7p 2.176117e-08 226.8p 1.799026e-08 226.9p 1.332563e-08 227p 8.339267e-09 227.1p 3.527406e-09 227.2p -7.192318e-10 227.3p -4.130578e-09 227.4p -6.558994e-09 227.5p -7.969981e-09 227.6p -8.424634e-09 227.7p -8.056906e-09 227.8p -7.048599e-09 227.9p -5.604705e-09 228p -3.931189e-09 228.1p -2.216736e-09 228.2p -6.193166e-10 228.3p 7.420891e-10 228.4p 1.790855e-09 228.5p 2.491737e-09 228.6p 2.846438e-09 228.7p 2.886751e-09 228.8p 2.666288e-09 228.9p 2.251813e-09 229p 1.714986e-09 229.1p 1.125183e-09 229.2p 5.438161e-10 229.3p 2.039601e-11 229.4p -4.096571e-10 229.5p -7.255594e-10 229.6p -9.203273e-10 229.7p -9.988827e-10 229.8p -9.754556e-10 229.9p -8.706431e-10 230p -7.084432e-10 230.1p -5.1353e-10 230.2p -3.089636e-10 230.3p -1.144597e-10 230.4p 5.473371e-11 230.5p 1.88363e-10 230.6p 2.811612e-10 230.7p 3.324036e-10 230.8p 3.451458e-10 230.9p 3.252684e-10 231p 2.804465e-10 231.1p 2.191503e-10 231.2p 1.497565e-10 231.3p 7.982983e-11 231.4p 1.56067e-11 231.5p -3.831114e-11 231.6p -7.906322e-11 231.7p -1.054651e-10 231.8p -1.178074e-10 231.9p -1.175627e-10 232p -1.070406e-10 232.1p -8.903331e-11 232.2p -6.648268e-11 232.3p -4.219461e-11 232.4p -1.861737e-11 232.5p 2.308206e-12 232.6p 1.922693e-11 232.7p 3.13818e-11 232.8p 3.857168e-11 232.9p 4.10679e-11 233p 3.950463e-11 233.1p 3.47571e-11 233.2p 2.782104e-11 233.3p 1.970328e-11 233.4p 1.133139e-11 233.5p 3.486594e-12 233.6p -3.238165e-12 233.7p -8.456078e-12 233.8p -1.198298e-11 233.9p -1.381661e-11 234p -1.410382e-11 234.1p -1.310051e-11 234.2p -1.11294e-11 234.3p -8.539437e-12 234.4p -5.67062e-12 234.5p -2.825436e-12 234.6p -2.494471e-13 234.7p 1.880131e-12 234.8p 3.457463e-12 234.9p 4.444518e-12 235p 4.861912e-12 235.1p 4.776544e-12 235.2p 4.287305e-12 235.3p 3.510604e-12 235.4p 2.566869e-12 235.5p 1.569326e-12 235.6p 6.153572e-13 235.7p -2.192111e-13 235.8p -8.828073e-13 235.9p -1.348256e-12 236p -1.610717e-12 236.1p -1.684044e-12 236.2p -1.596168e-12 236.3p -1.384157e-12 236.4p -1.089163e-12 236.5p -7.521734e-13 236.6p -4.10396e-13 236.7p -9.475061e-14 236.8p 1.718752e-13 236.9p 3.749336e-13 237p 5.081369e-13 237.1p 5.725112e-13 237.2p 5.749314e-13 237.3p 5.263942e-13 237.4p 4.404741e-13 237.5p 3.315175e-13 237.6p 2.132656e-13 237.7p 9.777596e-14 237.8p -5.314102e-15 237.9p -8.921728e-14 238p -1.500225e-13 238.1p -1.865899e-13 238.2p -2.00147e-13 238.3p -1.936578e-13 238.4p -1.713403e-13 238.5p -1.380263e-13 238.6p -9.866165e-14 238.7p -5.778866e-14 238.8p -1.926581e-14 238.9p 1.39254e-14 239p 3.986453e-14 239.1p 5.75782e-14 239.2p 6.70138e-14 239.3p 6.885532e-14 239.4p 6.433045e-14 239.5p 5.498254e-14 239.6p 4.249528e-14 239.7p 2.85348e-14 239.8p 1.46094e-14 239.9p 1.937981e-15 240p -8.602531e-15 240.1p -1.645092e-14 240.2p -2.143179e-14 240.3p -2.362408e-14 240.4p -2.333469e-14 240.5p -2.108102e-14 240.6p -1.738044e-14 240.7p -1.28468e-14 240.8p -7.988691e-15 240.9p -3.314737e-15 241p 8.155305e-16 241.1p 4.068883e-15 241.2p 6.419014e-15 241.3p 7.769462e-15 241.4p 8.190381e-15 241.5p 7.804539e-15 241.6p 6.822395e-15 241.7p 5.419331e-15 241.8p 3.770732e-15 241.9p 2.104595e-15 242p 5.43687e-16 242.1p -7.716847e-16 242.2p -1.771367e-15 242.3p -2.472899e-15 242.4p -2.823665e-15 242.5p -2.841203e-15 242.6p -2.613205e-15 242.7p -2.192286e-15 242.8p -1.657368e-15 242.9p -1.104912e-15 243p -5.349178e-16 243.1p -3.507658e-17 243.2p 4.033807e-16 243.3p 7.190699e-16 243.4p 8.944528e-16 243.5p 9.909134e-16 243.6p 9.646059e-16 243.7p 8.50607e-16 243.8p 6.839933e-16 243.9p 4.82303e-16 244p 2.630743e-16 244.1p 7.89223e-17 244.2p -7.015316e-17 244.3p -1.929212e-16 244.4p -2.718435e-16 244.5p -3.156892e-16 244.6p -3.332275e-16 244.7p -3.332275e-16 244.8p -2.981509e-16 244.9p -2.279978e-16 245p -1.666138e-16 245.1p -6.138401e-17 245.2p -0 245.3p 5.261487e-17 245.4p 8.769145e-17 245.5p 1.052297e-16 245.6p 1.052297e-16 245.7p 1.052297e-16 245.8p 8.769145e-17 245.9p 7.015316e-17 246p 5.261487e-17 246.1p 6.138401e-17 246.2p 2.630743e-17 246.3p 8.769145e-18 246.4p -1.753829e-17 246.5p -1.753829e-17 246.6p -3.507658e-17 246.7p -3.507658e-17 246.8p -4.384572e-17 246.9p -3.507658e-17 247p -3.507658e-17 247.1p -1.753829e-17 247.2p -1.753829e-17 247.3p -8.769145e-18 247.4p -1.753829e-17 247.5p -3.507658e-17 247.6p -5.261487e-17 247.7p -4.384572e-17 247.8p -4.384572e-17 247.9p -4.384572e-17 248p -2.630743e-17 248.1p -4.384572e-17 248.2p -1.753829e-17 248.3p 1.753829e-17 248.4p 8.769145e-18 248.5p 1.753829e-17 248.6p 2.630743e-17 248.7p 1.753829e-17 248.8p 1.753829e-17 248.9p 1.753829e-17 249p 1.753829e-17 249.1p 1.753829e-17 249.2p -0 249.3p -1.753829e-17 249.4p -2.630743e-17 249.5p -2.630743e-17 249.6p -1.753829e-17 249.7p -8.769145e-18 249.8p -1.753829e-17 249.9p -3.507658e-17 250p -5.261487e-17 250.1p -4.384572e-17 250.2p -4.384572e-17 250.3p -4.384572e-17 250.4p -2.630743e-17 250.5p -4.384572e-17 250.6p -1.753829e-17 250.7p 1.753829e-17 250.8p 8.769145e-18 250.9p 1.753829e-17 251p 2.630743e-17 251.1p 1.753829e-17 251.2p 1.753829e-17 251.3p 1.753829e-17 251.4p 1.753829e-17 251.5p 1.753829e-17 251.6p -0 251.7p -1.753829e-17 251.8p -2.630743e-17 251.9p -2.630743e-17 252p -1.753829e-17 252.1p -8.769145e-18 252.2p -1.753829e-17 252.3p -3.507658e-17 252.4p -5.261487e-17 252.5p -4.384572e-17 252.6p -4.384572e-17 252.7p -4.384572e-17 252.8p -2.630743e-17 252.9p -4.384572e-17 253p -1.753829e-17 253.1p 1.753829e-17 253.2p 8.769145e-18 253.3p 1.753829e-17 253.4p 2.630743e-17 253.5p 1.753829e-17 253.6p 1.753829e-17 253.7p 1.753829e-17 253.8p 1.753829e-17 253.9p 1.753829e-17 254p -0 254.1p -1.753829e-17 254.2p -2.630743e-17 254.3p -2.630743e-17 254.4p -1.753829e-17 254.5p -8.769145e-18 254.6p -1.753829e-17 254.7p -3.507658e-17 254.8p -5.261487e-17 254.9p -4.384572e-17 255p -4.384572e-17 255.1p -4.384572e-17 255.2p -2.630743e-17 255.3p -4.384572e-17 255.4p -1.753829e-17 255.5p 1.753829e-17 255.6p 8.769145e-18 255.7p 1.753829e-17 255.8p 2.630743e-17 255.9p 1.753829e-17 256p 1.753829e-17 256.1p 1.753829e-17 256.2p 1.753829e-17 256.3p 1.753829e-17 256.4p -0 256.5p -1.753829e-17 256.6p -2.630743e-17 256.7p -2.630743e-17 256.8p -1.753829e-17 256.9p -8.769145e-18 257p -1.753829e-17 257.1p -3.507658e-17 257.2p -5.261487e-17 257.3p -4.384572e-17 257.4p -4.384572e-17 257.5p -4.384572e-17 257.6p -2.630743e-17 257.7p -4.384572e-17 257.8p -1.753829e-17 257.9p 1.753829e-17 258p 8.769145e-18 258.1p 1.753829e-17 258.2p 2.630743e-17 258.3p 1.753829e-17 258.4p 1.753829e-17 258.5p 1.753829e-17 258.6p 1.753829e-17 258.7p 1.753829e-17 258.8p -0 258.9p -1.753829e-17 259p -2.630743e-17 259.1p -2.630743e-17 259.2p -1.753829e-17 259.3p -8.769145e-18 259.4p -1.753829e-17 259.5p -3.507658e-17 259.6p -5.261487e-17 259.7p -4.384572e-17 259.8p -4.384572e-17 259.9p -4.384572e-17 300p 0)
XJTL1 JTL_IN JTL_MID THmitll_JTL
XJTL2 JTL_MID JTL_OUT THmitll_JTL
R_TERM JTL_OUT 0 1

.tran 0.00625p 300p
.print I(V_REPLAY) V(JTL_IN) V(JTL_MID) V(JTL_OUT)
.print P(B1|XJTL1) V(B1|XJTL1) I(B1|XJTL1)
.print P(B2|XJTL1) V(B2|XJTL1) I(B2|XJTL1)
.print P(B1|XJTL2) V(B1|XJTL2) I(B1|XJTL2)
.print P(B2|XJTL2) V(B2|XJTL2) I(B2|XJTL2)
.print I(L1|XJTL1) I(L2|XJTL1) I(L3|XJTL1) I(L4|XJTL1)
.print I(IB1|XJTL1) I(RB1|XJTL1) I(RB2|XJTL1)
.print I(L1|XJTL2) I(L2|XJTL2) I(L3|XJTL2) I(L4|XJTL2)
.print I(IB1|XJTL2) I(RB1|XJTL2) I(RB2|XJTL2)
.print I(R_TERM) I(L1|XJTL1)
.end
